US06057006
128.0 g of 8-(3-fluoro-4-iodophenyl)-1,4-dioxaspiro-[4.5]decane and 320 ml of formic acid were dissolved in 750 ml of toluene and stirred at 25° C. overnight, the HCOOH phase was run off, diluted with 2 1 of water and extracted twice with toluene, and the toluene phases were washed with water and sodium hydrogencarbonate solution until neutral, dried and evaporated. The crude product was recrystallized at -25° C. from 100 ml of hexane containing a few drops of ethyl acetate, giving 4-(3-fluoro-4-iodophenyl)cyclohexanone.

reactant | 8-(3-fluoro-4-iodophenyl)-1,4-dioxaspiro-[4.5]decane | 128.0 g | FC=1C=C(C=CC1I)C1CCC2(OCCO2)CC1 | C14H16FIO2
reactant | formic acid | 320 ml | C(=O)O | CH2O2
solvent | toluene | 750 ml | C1(=CC=CC=C1)C | C7H8
solvent | water | O | H2O
product | 4-(3-fluoro-4-iodophenyl)cyclohexanone | FC=1C=C(C=CC1I)C1CCC(CC1)=O | C12H12FIO
